US07074817B2
1-Butyl-5-(4-chlorophenyl)-1H-indole
The title compound was prepared from 5-bromo-1-butyl-1H-indole and 4-chlorophenylboronic acid in substantially the same manner, as described in Step 2 of Example 25. The product was obtained as an oil. Mass spectrum (ESI, [M+H]+) m/z 284. 1HNMR (400 MHz, DMSO-d6): δ 7.81 (s, 1H), 7.67 (d, 2H, J=8.56 Hz), 7.54 (d, 1H, J=8.55 Hz), 7.46 (d, 2H, J=8.55 Hz), 7.42-7.40 (m, 2H), 6.47 (d, 1H, J=3.0 Hz), 4.18 (t, 2H, J=7.02 Hz), 1.73 (p, 2H, J=7.18 Hz), 1.24 (h, 2H, J=7.47 Hz), and 0.88 ppm (t, 3H, J=7.33 Hz).

reactant | 5-bromo-1-butyl-1H-indole | BrC=1C=C2C=CN(C2=CC1)CCCC | C12H14BrN
reactant | 4-chlorophenylboronic acid | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
product | 1-Butyl-5-(4-chlorophenyl)-1H-indole | C(CCC)N1C=CC2=CC(=CC=C12)C1=CC=C(C=C1)Cl | C18H18ClN
